US05646310
2.52 ml of trimethylsilylcyanide and 0.82 g of zinc iodide were added to a mixture of 4.05 g of 2,2-bisfluoromethyl-3,4-dihydro-6-nitro-2H-1-benzopyran-4-one and 10 ml of dried benzene, and the mixture was stirred at room temperature for 12 hours. Further, 8 ml of pyridine and 4.41 ml of phosphorus oxychloride were added thereto, followed by heat-refluxing for 6 hours. Ice water was added to the reaction mixture which was then made acidic with hydrochloric acid, and the mixture was extracted with methylene chloride. After washing the organic layer with water and drying, the residue obtained by concentration under reduced pressure was subjected to silica gel column chromatography (an eluting solvent: methylene chloride:hexane=7:3) to obtain 0.99 g of 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carbonitrile having a melting point of 136°-137° C.

reactant | trimethylsilylcyanide | 2.52 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | 2,2-bisfluoromethyl-3,4-dihydro-6-nitro-2H-1-benzopyran-4-one | 4.05 g | FCC1(OC2=C(C(C1)=O)C=C(C=C2)[N+](=O)[O-])CF | C11H9F2NO4
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | phosphorus oxychloride | 4.41 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | zinc iodide | 0.82 g | [I-].[Zn+2].[I-]
solvent | hexane | CCCCCC | C6H14
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carbonitrile | 0.99 g | FCC1(OC2=C(C(=C1)C#N)C=C(C=C2)[N+](=O)[O-])CF | C12H8F2N2O3
